US06518423B1
8-(Imidazol-1-yl)-10H-pyrazino[2,3-b][1,4]benzoxazine
The following compound was obtained by reacting 8-chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]-benzoxazine with imidazole and then treating by the same method as the one of Example 8.

reactant | 8-chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]-benzoxazine | ClCC=1C=CC2=C(N(C3=C(O2)N=CC=N3)COC)C1 | C13H12ClN3O2
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 8-(Imidazol-1-yl)-10H-pyrazino[2,3-b][1,4]benzoxazine | N1(C=NC=C1)C=1C=CC2=C(NC3=C(O2)N=CC=N3)C1 | C13H9N5O
